US05089044
2-(4,6-dimethoxy-2-pyrimidinylthio)-3-phenylacrylic acid
0.5 g (1.5 mmol) Methyl 2-(4,6-dimethoxy-2-pyrimidinylthio)-3-phenylacrylate and 95 mg (1.7 mmol) potassium hydroxide were added to a mixture of 5 ml water and 5 ml ethanol and the mixture heated at 50° C. for 8 hours. It was then diluted with about 100 ml water and extracted with ethyl acetate. The aqueous phase was acidified with 10% hydrochloric acid until it was pH 2 and extracted with ethyl acetate. After drying the ethyl acetate phase over magnesium sulphate, the solvent was evaporated under reduced pressure and the residue recrystallised from diisopropyl ether.

reactant | Methyl 2-(4,6-dimethoxy-2-pyrimidinylthio)-3-phenylacrylate | 1.5 mmol, 0.5 g | COC1=NC(=NC(=C1)OC)SC(C(=O)OC)=CC1=CC=CC=C1 | C16H16N2O4S
reactant | potassium hydroxide | 1.7 mmol, 95 mg | [OH-].[K+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | about 100 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 2-(4,6-dimethoxy-2-pyrimidinylthio)-3-phenylacrylic acid | COC1=NC(=NC(=C1)OC)SC(C(=O)O)=CC1=CC=CC=C1 | C15H14N2O4S
